US08293909B2
Step 3: Preparation of 4-chloro-3-(2-(4-fluorophenyl)-3-(methoxycarbonyl)furo[2,3-b]pyridin-5-yl)benzoic acid.
1,3-bis(diphenylphosphino)propane (28 mg, 0.067 mmol) was added to a stirring solution of palladium(II) acetate (7.5 mg, 0.034 mmol) and 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-4-chlorobenzoic acid (75 mg, 0.17 mmol) in MeOH (0.6 mL) and DMSO (1.1 mL) at 80° C. in a Parr bomb which was charged with 150 psi CO (g) and allowed to stir overnight. The mixture was diluted with ethyl acetate and washed with 1M HCl, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated to give the expected product 4-chloro-3-(2-(4-fluorophenyl)-3-(methoxycarbonyl)furo[2,3-b]pyridin-5-yl)benzoic acid (75 mg, 0.113 mmol, 67% yield) by LCMS. LC-MS retention time: 2.28 min; m/z (MH+): 427. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters SunFire 5 u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% acetonitrile/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% acetonitrile/0.1% trifluoroacetic acid. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | 1,3-bis(diphenylphosphino)propane | 0.067 mmol, 28 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-4-chlorobenzoic acid | 0.17 mmol, 75 mg | BrC1=C(OC2=NC=C(C=C21)C=2C=C(C(=O)O)C=CC2Cl)C2=CC=C(C=C2)F | C20H10BrClFNO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | MeOH | 0.6 mL | CO | CH4O
solvent | DMSO | 1.1 mL | CS(=O)C | C2H6OS
catalyst | palladium(II) acetate | 0.034 mmol, 7.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-chloro-3-(2-(4-fluorophenyl)-3-(methoxycarbonyl)furo[2,3-b]pyridin-5-yl)benzoic acid | 0.113 mmol, 75 mg, 67% yield | ClC1=C(C=C(C(=O)O)C=C1)C=1C=C2C(=NC1)OC(=C2C(=O)OC)C2=CC=C(C=C2)F | C22H13ClFNO5
